US08975400B2
D8: 3-fluoro-4-((6-(trifluoromethyl)-3-pyridinyl)oxy)benzaldehyde
The title compound was prepared by a procedure similar to those described for D4 starting from 6-(trifluoromethyl) 3-pyridinol and 3,4-difluorobenzaldehyde.

reactant | 6-(trifluoromethyl) 3-pyridinol | FC(C1=CC=C(C=N1)O)(F)F | C6H4F3NO
reactant | 3,4-difluorobenzaldehyde | FC=1C=C(C=O)C=CC1F | C7H4F2O
product | 3-fluoro-4-((6-(trifluoromethyl)-3-pyridinyl)oxy)benzaldehyde | FC=1C=C(C=O)C=CC1OC=1C=NC(=CC1)C(F)(F)F | C13H7F4NO2
